### PR TITLE
feat: bitvector trichotomy lemmas

### PR DESCRIPTION
**Pull request by bollu**
This PR adds trichotomy lemmas for unsigned and signed comparisons, stating that only one of three cases may happen: either `x < y`, `x = y`, or `x > y` (for both signed and unsigned comparsions). We use explicit arguments so that users can write `rcases slt_trichotomy x y with hlt | heq | hgt`.

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -852,6 +852,22 @@ theorem slt_eq_sle_and_ne {x y : BitVec w} : x.slt y = (x.sle y && x != y) := by
...
+theorem slt_trichotomy {x y : BitVec w} : x.slt y ∨ (x = y) ∨ y.slt x := by
+  have : (x = y) ↔ (x.toInt = y.toInt) := Iff.symm toInt_inj
+  simp [slt_eq_decide, decide_eq_true_eq, this]
+  omega
+
+/-- For all bitvectors `x, y`, either `x` is unsigned less than `y`,
+or is equal to `y`, or is unsigned greater than `y`. -/
+theorem BitVec.ult_trichotomy {x y : BitVec w} :
+    x.ult y ∨ x = y ∨ y.ult x := by
+  have : (x = y) ↔ (x.toNat = y.toNat) := Iff.symm toNat_inj
```
Comment (Rob23oba) [inline src/Init/Data/BitVec/Lemmas.lean:866]: `x < y` is more commonly used than `x.ult y` so it's probably best to do `BitVec.lt_trichomoty` instead. If you really need `ult_trichomoty` then you could use `lt_trichomoty` and `ult_iff_lt`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -852,6 +852,22 @@ theorem slt_eq_sle_and_ne {x y : BitVec w} : x.slt y = (x.sle y && x != y) := by
   apply Bool.eq_iff_iff.2
   simp [BitVec.slt, BitVec.sle, Int.lt_iff_le_and_ne, BitVec.toInt_inj]
 
+/-- For all bitvectors `x, y`, either `x` is signed less than `y`,
+or is equal to `y`, or is signed greater than `y`. -/
+theorem slt_trichotomy {x y : BitVec w} : x.slt y ∨ (x = y) ∨ y.slt x := by
+  have : (x = y) ↔ (x.toInt = y.toInt) := Iff.symm toInt_inj
+  simp [slt_eq_decide, decide_eq_true_eq, this]
+  omega
```
Comment (Rob23oba) [inline src/Init/Data/BitVec/Lemmas.lean:860]: `simpa [slt_iff_toInt_lt, ← toInt_inj] using Int.lt_trichotomy ..` maybe

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:866]: Done, thanks!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:860]: Done.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -852,6 +852,21 @@ theorem slt_eq_sle_and_ne {x y : BitVec w} : x.slt y = (x.sle y && x != y) := by
   apply Bool.eq_iff_iff.2
   simp [BitVec.slt, BitVec.sle, Int.lt_iff_le_and_ne, BitVec.toInt_inj]
 
+/-- For all bitvectors `x, y`, either `x` is signed less than `y`,
+or is equal to `y`, or is signed greater than `y`. -/
+theorem slt_trichotomy {x y : BitVec w} : x.slt y ∨ (x = y) ∨ y.slt x := by
+  have : (x = y) ↔ (x.toInt = y.toInt) := Iff.symm toInt_inj
```
Comment (Rob23oba) [inline src/Init/Data/BitVec/Lemmas.lean:858]: Perhaps make the parameters explicit, so one can write `rcases BitVec.slt_trichotomy x y with _ | _ | _`. Also the parentheses around `x = y` are unnecessary and the `have` seems to be unused.

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Addresesd!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -852,6 +852,19 @@ theorem slt_eq_sle_and_ne {x y : BitVec w} : x.slt y = (x.sle y && x != y) := by
   apply Bool.eq_iff_iff.2
   simp [BitVec.slt, BitVec.sle, Int.lt_iff_le_and_ne, BitVec.toInt_inj]
 
+/-- For all bitvectors `x, y`, either `x` is signed less than `y`,
+or is equal to `y`, or is signed greater than `y`. -/
+theorem slt_trichotomy (x y : BitVec w) : x.slt y ∨ x = y ∨ y.slt x := by
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Init/Data/BitVec/Lemmas.lean:857]: You want to be able to do `rcases slt_trichotomy x y with hlt | heq | hgt`

[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:857]: Perfect. Thank you @Rob23oba. @bollu, please add this info into the commit message to help train people.

**Review by tobiasgrosser — COMMENTED** [review]
This LGTM. Thank you, @bollu.
